US06005116
(b) 1-Naphthylacrylic acid ethyl ester
1-Naphthylacrylic acid (9.5 g), conc. sulfuric acid (1 ml) and ethanol (100 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(a) to obtain the title compound (10.2 g, 94%) as a colorless oil.

reactant | 1-Naphthylacrylic acid | 9.5 g | C1(=CC=CC2=CC=CC=C12)C(C(=O)O)=C | C13H10O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Naphthylacrylic acid ethyl ester | 10.2 g, 94% | C(C)OC(C(=C)C1=CC=CC2=CC=CC=C12)=O | C15H14O2
